US05041673
Step C 2-tertbutoxycarbonylamino-1,2-dihydro-3-(4H)-phenanthrenone
Under argon to a solution of trans 2-tertbutoxycarbonylamino-1,2,3,4-tetrahydro-3-phenanthrenol (140 mg) in anhydrous methylene chloride (5 ml) was added Dess-Martin periodinane (281 mg). Agitation was maintained for 1 hour at room temperature and the reaction mixture was filtered on silica gel (30 g, elution with ethyl acetate:cyclohexane, 1:9). Evaporation of solvents gave the crude title compound (136 mg) which was recrystallized from a pentane/ethyl acetate mixture. The title compound was obtained as white needles (89 mg).

reactant | trans 2-tertbutoxycarbonylamino-1,2,3,4-tetrahydro-3-phenanthrenol | 140 mg | C(C)(C)(C)OC(=O)N[C@@H]1CC=2C=CC3=CC=CC=C3C2C[C@H]1O | C19H23NO3
reactant | Dess-Martin periodinane | 281 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-tertbutoxycarbonylamino-1,2-dihydro-3-(4H)-phenanthrenone | C(C)(C)(C)OC(=O)NC1CC=2C=CC3=CC=CC=C3C2CC1=O | C19H21NO3
